US07119205B2
4-hydroxy-6-oxo-3-{2′-[({2-[4-(trifluoromethyl)phenyl]ethyl}amino)methyl]-1,1′-biphenyl-4-yl}-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile
To a solution of 3-(2′-formyl-1,1′-biphenyl-4-yl)-4-hydroxy-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile (0.025 g, 0.067 mmol) in MeOH (1 mL) and dichloromethane (1 mL, with 2% v/v acetic acid) was added 2-(4-trifluoromethyl phenyl)ethyl amine (0.025 g, 0.13 mmol) and shaken at room temperature for 10 min. MP-cyanoborohydride (0.09 g, 0.2 mmol) was then added to the reaction mixture and shaken at room temperature for 24 h. The reaction was filtered, concentrated and purified by RP-HPLC to give the title compound. MS (ESI) m/e 546 (M+H)+; 1H NMR (500 MHz, DMSO-d6): δ ppm 11.11 (br s, 1H), 8.97 (br s, 2H), 7.66–7.70 (m, 3H), 7.58 (d, 2H), 7.50–7.54 (m, 2H), 7.46 (d, 2H), 7.37–7.40 (m, 1H), 7.30 (d, 2H), 6.76 (s, 1H), 4.24 (s, 2H), 3.17 (br s, 2H), 2.95 (t, 2H).

reactant | 3-(2′-formyl-1,1′-biphenyl-4-yl)-4-hydroxy-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile | 0.067 mmol, 0.025 g | C(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)C1=CSC=2NC(C(=C(C21)O)C#N)=O | C21H12N2O3S
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | 2-(4-trifluoromethyl phenyl)ethyl amine | 0.13 mmol, 0.025 g | FC(C1=CC=C(C=C1)CCN)(F)F | C9H10F3N
reactant | cyanoborohydride | 0.2 mmol, 0.09 g | C(#N)[BH3-]
solvent | MeOH | 1 mL | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-hydroxy-6-oxo-3-{2′-[({2-[4-(trifluoromethyl)phenyl]ethyl}amino)methyl]-1,1′-biphenyl-4-yl}-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile | OC=1C2=C(NC(C1C#N)=O)SC=C2C2=CC=C(C=C2)C2=C(C=CC=C2)CNCCC2=CC=C(C=C2)C(F)(F)F | C30H22F3N3O2S
